US08877739B2
Synthesis of N5-(3-phosphonophenyl)-L-glutamine (Compound No. 18)
Boc-Glu-OtBu (236 mg, 0.78 mmol), HOAt (127 mg, 0.936 mmol) and HATU (356 mg, 0.936 mmol) were dissolved in 1 ml of DMF, and triethylamine (0.21 ml) was added to the solution. Ten minutes after, the crude product of (3-aminophenyl)phosphonic acid was added and stirred at room temperature overnight. The solvent was distilled off and the mixture was purified in accordance with the purification step A to give the title compound.

reactant | Boc-Glu-OtBu | 0.78 mmol, 236 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H25NO6
reactant | HOAt | 0.936 mmol, 127 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | HATU | 0.936 mmol, 356 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (3-aminophenyl)phosphonic acid | NC=1C=C(C=CC1)P(O)(O)=O | C6H8NO3P
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
product | N5-(3-phosphonophenyl)-L-glutamine | P(=O)(O)(O)C=1C=C(C=CC1)NC(CC[C@H](N)C(=O)O)=O | C11H15N2O6P
